US07902367B2
Step 77a) 1-(tert-Butoxycarbonyl)-3-[(4′-chlorobiphenyl-4-yl)methoxy]piperidine
Using 1-(tert-butoxycarbonyl)-3-hydroxypiperidine (403 mg, 2.00 mmol) and 4′-chloro-4-chloromethylbiphenyl (474 mg, 2.00 mmol), the same procedure was followed as in Step 6a of Example 6 to give 672 mg (84%) of the desired compound as a colorless powder.

reactant | 1-(tert-butoxycarbonyl)-3-hydroxypiperidine | 2.00 mmol, 403 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)O | C10H19NO3
reactant | 4′-chloro-4-chloromethylbiphenyl | 2.00 mmol, 474 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CCl | C13H10Cl2
product | 1-(tert-Butoxycarbonyl)-3-[(4′-chlorobiphenyl-4-yl)methoxy]piperidine | 672 mg, 84% | C(C)(C)(C)OC(=O)N1CC(CCC1)OCC1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C23H28ClNO3
